US05225402
1-{1-[4-(N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (200 mg) is dissolved in dichloromethane (5 ml) and thereto is added α-chloroacetyl chloride (55 μl) under ice cooling. Continually thereto is added triethylamine (0.23 ml) and the mixture is stirred at room temperature overnight. After the solvent is concentrated, the residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) and recrystallized from n-hexane/ethanol to give 1-{1-[4-(N-α-chloroacetyl-N-methylamino)benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (0.18 g) as white powder, m.p.: 220°-222° C. (decomposed).

reactant | 1-{1-[4-(N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 200 mg | CNC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H25N3O2
reactant | α-chloroacetyl chloride | 55 μl | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-{1-[4-(N-α-chloroacetyl-N-methylamino)benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 0.18 g | ClCC(=O)N(C)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H26ClN3O3
